US05972965
Sodium (54 mg) was dissolved in ethanol (8.0 ml), and then 1-(3-benzyloxybenzoyl)-2-piperidinecarboxylic acid (665 mg), conc. sulfuric acid (1 drop), and desyl bromide (539 mg) was successively dissolved thereto. The resulting mixture was stirred at 70° C. for 2 days, cooled to room temperature, and partitioned between ethyl acetate and 1N HCl. The organic layer was washed with 1N HCl, aqueous sodium bicarbonate, and brine, dried over MgSO4, and evaporated in vacuo. The residue was chromatographed over silica gel to afford 2-oxo-1,2-diphenylethyl 1-(3-benzyloxybenzoyl)-2-piperidinecarboxylate (297 mg) as a pale yellow oil. (+) APCI-MS (m/z): 534 (M+ +1) IR (Nujol): 1735, 1690, 1630, 1225 cm-1

reactant | Sodium | 54 mg | [Na] | Na
reactant | 1-(3-benzyloxybenzoyl)-2-piperidinecarboxylic acid | 665 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C(CCCC2)C(=O)O)C=CC1 | C20H21NO4
reactant | desyl bromide | 539 mg | C1(=CC=CC=C1)C(=O)C(C1=CC=CC=C1)Br | C14H11BrO
solvent | ethanol | 8.0 ml | C(C)O | C2H6O
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
product | 2-oxo-1,2-diphenylethyl 1-(3-benzyloxybenzoyl)-2-piperidinecarboxylate | 297 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C(CCCC2)C(=O)OC(C(C2=CC=CC=C2)=O)C2=CC=CC=C2)C=CC1 | C34H31NO5
